US06506926B1
Sodium thiomethoxide (37 g of a 21% aqueous solution, 0.11M) was added during 2 hours to a solution of 2-chloro-4-trifluoromethylbenzonitrile (20.56 g, 0.099M) in acetone (34 g) with stirring at 30-35° C. After a further 2.5 hours at 30-35° C. and 3 hours at 60° C., a further addition of sodium thiomethoxide (3.4 g of a 21% aqueous solution, 0.01M) was made. The mixture was maintained at 60° C. for 2 hours, cooled and the organic phase evaporated to give 2-methylthio-4-trifluoromethylbenzonitrile (20.3 g), m.p.80° C. The yield of product was 91%, with a purity of 97%.

reactant | Sodium thiomethoxide | C[S-].[Na+]
reactant | 2-chloro-4-trifluoromethylbenzonitrile | 0.099M, 20.56 g | ClC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3ClF3N
solvent | acetone | 34 g | CC(=O)C | C3H6O
product | 2-methylthio-4-trifluoromethylbenzonitrile | 20.3 g | CSC1=C(C#N)C=CC(=C1)C(F)(F)F | C9H6F3NS
